US08383644B2
(S)-3-[(S)-2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-tert-butoxycarbonylamino-propionic acid methyl ester
To a solution of (S)-2-tert-Butoxycarbonylamino-3-[(S)-2-(4-hydroxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-propionic acid methyl ester (240 mg) in DCM (10 mL) was added pyridine at 0° C. To this mixture was added acetic anhydride. The mixture was stirred for 2-3 h. After completion of the reaction, the mixture was diluted with DCM (50 mL) and was washed with water, 1N HCl and brine solution. The organic layer was dried and concentrated to get the desired product as a white solid (208 mg). LCMS (m/z): 473

reactant | (S)-2-tert-Butoxycarbonylamino-3-[(S)-2-(4-hydroxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-propionic acid methyl ester | 240 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)O)C=C1)NC(=O)OC(C)(C)C)=O | C23H27NO7
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-[(S)-2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-tert-butoxycarbonylamino-propionic acid methyl ester | 208 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OC(C)=O)C=C1)NC(=O)OC(C)(C)C)=O | C25H29NO8
